US03997603
3,4-Dibromo-2,5-diisopropylbenzenesulfonamide
If hydrochloric acid is substituted for hydrobromic acid and cuprous cyanide for cuprous bromide, the 3-amino-4-bromo-2,5-diisopropylbenzenesulfonamide may be converted to 4-bromo-3-cyano-2,5-diisopropylbenzenesulfonamide.

reactant | hydrochloric acid | Cl | ClH
reactant | hydrobromic acid | Br | BrH
reactant | 3-amino-4-bromo-2,5-diisopropylbenzenesulfonamide | NC=1C(=C(C=C(C1Br)C(C)C)S(=O)(=O)N)C(C)C | C12H19BrN2O2S
reactant | 4-bromo-3-cyano-2,5-diisopropylbenzenesulfonamide | BrC1=C(C(=C(C=C1C(C)C)S(=O)(=O)N)C(C)C)C#N | C13H17BrN2O2S
product | 3,4-Dibromo-2,5-diisopropylbenzenesulfonamide | BrC=1C(=C(C=C(C1Br)C(C)C)S(=O)(=O)N)C(C)C | C12H17Br2NO2S
